US05286595
To a 100 mL 3-neck round bottom flask equipped with a stir bar, condenser, and addition funnel was added 39 mL of dihydrofuran (FW 70.09, d=0.927), and 0.18 g of phenothiazine. Acrylic acid (19 mL, FW 72.06, d=1.05) was added dropwise slowly with stirring. A mild exotherm (55° C.) occurred. After cooling to room temperature, 0.415 g of poly(4-vinylpyridine hydrochloride) was added and the reaction was stirred overnight. The acid catalyst was then filtered off and 0.2 g each of calcium hydride and potassium carbonate was added to the filtrate. After removal of excess dihydrofuran on a rotovap, 10 mg of DPPH (2,2-diphenyl-1-picrylhydrazyl hydrate) was added and the slurry was vacuum distilled at 200 mtorr at 26° C. to give 26.0 g of 2-tetrahydrofuranyl acrylate.

reactant | dihydrofuran | 39 mL | O1CCC=C1 | C4H6O
reactant | phenothiazine | 0.18 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | Acrylic acid | 19 mL | C(C=C)(=O)O | C3H4O2
reactant | poly(4-vinylpyridine hydrochloride) | 0.415 g | C=CC1=CC=NC=C1.Cl
product | 2-tetrahydrofuranyl acrylate | 26.0 g | C(C=C)(=O)OC1OCCC1 | C7H10O3
